US06586617B1
Synthesis of N-Methyl-2′-nitro-4′-(n-propoxy)-p-toluenesulfonanilide (Compound No. 216)
To a suspension of sodium hydride (60%, 0.05 g (1.25 mmol)) in 1.0 ml of DMF, 4′-hydroxy-N-methyl-2′-nitro-p-toluenesulfonanilide (0.32 g (0.99 mmol)) was added with stirring at room temperature. To the resulting mixture, after 15 minutes' stirring at room temperature, n-propyl bromide (0.20 g (2.20 mmol)) was added dropwise and the mixture was stirred at room temperature for 15 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. Diisopropyl ether was added to the residue and crystals separated were filtered and washed to give 0.15 g (42%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 1.25 mmol, 0.05 g | [H-].[Na+]
reactant | 4′-hydroxy-N-methyl-2′-nitro-p-toluenesulfonanilide | 0.99 mmol, 0.32 g | OC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)[N+](=O)[O-] | C14H14N2O5S
reactant | n-propyl bromide | 2.20 mmol, 0.20 g | CCCBr | C3H7Br
reactant | water | O | H2O
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | N-Methyl-2′-nitro-4′-(n-propoxy)-p-toluenesulfonanilide | 0.15 g, 42% | CN(C1=C(C=C(C=C1)OCCC)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)C | C17H20N2O5S
